US07368578B2
A mixture of piperidine-1-carbothioamide (1.0 g), 1,3-dichloro-2-propanone (0.91 g) and ethanol (30 mL) was heated under reflux for 1 hr. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 1-(4-chloromethyl-1,3-thiazol-2-yl)piperidine as a colorless oil (1.00 g, yield 67%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | piperidine-1-carbothioamide | 1.0 g | N1(CCCCC1)C(N)=S | C6H12N2S
reactant | 1,3-dichloro-2-propanone | 0.91 g | ClCC(CCl)=O | C3H4Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(4-chloromethyl-1,3-thiazol-2-yl)piperidine | 1.00 g, yield 67% | ClCC=1N=C(SC1)N1CCCCC1 | C9H13ClN2S
